US03962451
3,6-Bis(4-diethylaminobutyl)-9-ethylcarbazole dihydrochloride
A solution of 11.0 g (0.02 mole) of 3,6-bis(4-diethylaminobutryl)-9-ethylcarbazole dihydrochloride and 25 ml of an 85% aqueous hydrazine hydrate solution is dissolved in 200 ml of ethylene glycol and heated to a temperature of 165°C for a period of 18 hours. The reaction mixture is cooled and diluted with water whereupon the free base of the desired compound separates as an oil. The product is separated by decantation, washed with water, dissolved in diethyl ether and the ethereal solution dried over magnesium sulfate. The dried solution is concentrated to a small volume and placed on an aluminum oxide chromatographic column and eluted with methylene chloride. The eluate is converted to its hydrochloride salt and crystallized from a methanol-ethyl acetate solution. Recrystallization from acetone with two additional recrystallizations from a methylene chloride-acetone solution results in the preparation of 3,6-bis(4-diethylaminobutyl)-9-ethylcarbazole dihydrochloride having a m.p. 172°-4° C; and λmaxEtOH 240; and E1cm1% 907.

reactant | 3,6-bis(4-diethylaminobutryl)-9-ethylcarbazole dihydrochloride | 0.02 mole, 11.0 g | Cl.Cl.C(C)N(CCCC(=O)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C(CCCN(CC)CC)=O)CC)CC
reactant | hydrazine hydrate | O.NN
solvent | ethylene glycol | 200 ml | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 3,6-Bis(4-diethylaminobutyl)-9-ethylcarbazole dihydrochloride | Cl.Cl.C(C)N(CCCCC=1C=CC=2N(C3=CC=C(C=C3C2C1)CCCCN(CC)CC)CC)CC | InChI=1S/C30H47N3.2ClH/c1-6-31(7-2)21-13-11-15-25-17-19-29-27(23-25)28-24-26(18-20-30(28)33(29)10-5)16-12-14-22-32(8-3)9-4;;/h17-20,23-24H,6-16,21-22H2,1-5H3;2*1H
